US08053440B2
A mixture of 2-(4-benzyloxy-3,5-dimethyl-phenyl)-5,7-dimethoxy-3H-quinazolin-4-one (1.2 g, 2.92 mmol) and magnesium bromide (0.644 g, 3.5 mmol) in pyridine (50 mL) was stirred at reflux for 12 h. The mixture was concentrated and the solid residue was made into slurry with HCl (2 N, 100 mL). The solid was collected by filtration, washed with water and hexanes to yield 2-(4-benzyloxy-3,5-dimethyl-phenyl)-5-hydroxy-7-methoxy-3H-quinazolin-4-one as a white solid (0.76 g, 65%). A solution of ammonium formate (0.945 g, 15 mmol) and 2-(4-benzyloxy-3,5-dimethyl-phenyl)-5-hydroxy-7-methoxy-3H-quinazolin-4-one (0.1 g, 0.25 mmol) in DMF (50 mL) was mixed with palladium carbon (0.1 g) and stirred at 85° C. for 14 h. The resulting suspension was cooled to room temperature, passed through a Celite pad, and washed with DCM. The filtrate was concentrated and the residue was diluted with water (20 mL). The resulting solid was collected by filtration and washed with hexanes to afford 5-hydroxy-2-(4-hydroxy-3,5-dimethylphenyl)-7-methoxyquinazolin-4(3H)-one (57 mg, 74%) as light yellow solid. Selected data: MS (ES) m/z: 312.94; MP 291.3-293° C.

reactant | ammonium formate | 15 mmol, 0.945 g | C(=O)[O-].[NH4+]
reactant | 2-(4-benzyloxy-3,5-dimethyl-phenyl)-5-hydroxy-7-methoxy-3H-quinazolin-4-one | 0.25 mmol, 0.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)O)OC)C | C24H22N2O4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | palladium carbon | 0.1 g | [C].[Pd]
product | 5-hydroxy-2-(4-hydroxy-3,5-dimethylphenyl)-7-methoxyquinazolin-4(3H)-one | 57 mg, 74% | OC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC(=C(C(=C1)C)O)C)=O | C17H16N2O4
